US05559113
A solution of 2.0 g (15.85 mmol) of 4-(3-hydroxypropyl)-1H-imidazole and 5.5 ml (54.3 mmol) of dry ethylamine in 15.6 ml of dimethylformamide is treated with 4.86 g (17.4 mmol) of triphenylmethyl chloride in 5 ml of dimethylformamide under nitrogen. The mixture obtained is stirred at room temperature for 2 hours and is then poured onto 350 g of crushed ice. The resulting solid is collected by filtration, washed three times with water and purified on a chromatographic column using, as eluent, chloroform and then a chloroform/methanol (1/1) mixture to give 1-triphenylmethyl-4-(3-hydroxypropyl)-1H-imidazole, M.p.: 132°-133° C.

reactant | 4-(3-hydroxypropyl)-1H-imidazole | 15.85 mmol, 2.0 g | OCCCC=1N=CNC1 | C6H10N2O
reactant | ethylamine | 54.3 mmol, 5.5 ml | C(C)N | C2H7N
reactant | triphenylmethyl chloride | 17.4 mmol, 4.86 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 15.6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-triphenylmethyl-4-(3-hydroxypropyl)-1H-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
